US07592143B2
3,4-Bis-(1,1-dimethyl-allyloxy)-xanthen-9-one
To a solution of 3,4-bis-(1,1-dimethyl-prop-2-ynyloxy)-xanthen-9-one (318 mg, 0.882 mmol) in methanol (25 mL) was added Lindlar's catalsyt (Pd, 5 wt % on calcium carbonate, 75 mg) under hydrogen (1 atm). The mixture was stirred at room temperature for 1 h, then the mixture was filtered through a syringe filter and the solvent was evaporated. The residue was purified by column chromatography (SiO2, EtOAc:hexanes/10-25%) to give the product as a white solid (249 mg, 77%): 1H NMR (CDCl3,300 MHz) δ 8.31 (dd, J=1.8, 8.1 Hz, 1H), 7.93 (d, J=9.0 Hz, 1H), 7.70 (m, 1H), 7.50 (dd, J=0.9, 8.7 Hz, 1H), 7.37 (m, 1H), 7.13 (d, J=9.0 Hz, 1H), 6.30 (dd, J=10.8, 17.7 Hz, 1H), 6.20 (dd, J=11.1, 17.1 Hz, 1H), 5.25-5.16 (m, 3H), 5.03 (dd, J=0.9, 10.5 Hz, 1H), 1.59 (s, 3H), 1.58 (s, 3H).

reactant | 3,4-bis-(1,1-dimethyl-prop-2-ynyloxy)-xanthen-9-one | 0.882 mmol, 318 mg | CC(C#C)(OC=1C=CC=2C(C3=CC=CC=C3OC2C1OC(C#C)(C)C)=O)C | C23H20O4
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 3,4-Bis-(1,1-dimethyl-allyloxy)-xanthen-9-one | 249 mg, 77% | CC(C=C)(OC=1C=CC=2C(C3=CC=CC=C3OC2C1OC(C=C)(C)C)=O)C | C23H24O4
